US04617395
The procedure described in Example 1 was followed, except that 187 g/hour of ethylacrolein and 283 g/hour of 3-chloro-2-methylaniline were employed. Distillation gave 335 g of distillate at a boiling point of 125° C./2 mm Hg. This distillate contained 75% by weight of 3-ethyl-7-chloro-8-methylquinoline and 22% by weight of 3-ethyl-7-chloro-8-methyltetrahydroquinoline, corresponding to a quinoline yield of 60%, based on 3-chloro-2-methylaniline employed.

reactant | ethylacrolein | C(C)C(=O)C=C | C5H8O
reactant | 3-chloro-2-methylaniline | ClC=1C(=C(N)C=CC1)C | C7H8ClN
reactant | 3-ethyl-7-chloro-8-methylquinoline | C(C)C=1C=NC2=C(C(=CC=C2C1)Cl)C | C12H12ClN
reactant | 3-ethyl-7-chloro-8-methyltetrahydroquinoline | C(C)C1CNC2=C(C(=CC=C2C1)Cl)C | C12H16ClN
product | quinoline | yield of 60% | N1=CC=CC2=CC=CC=C12 | C9H7N
